US07687435B2
1.2) Ethyl 2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-oxo-3-o-tolylpropionate
6.2 g (0.024 mol) of ethyl 2-amino-3-oxo-3-o-tolylpropionate hydrochloride were dissolved in methylene chloride, and 9.7 g (0.096 mol) of triethylamine were added. At 0° C., 5.4 g (0.024 mol) of 4-fluoro-2-trifluoromethylbenzoyl chloride, dissolved in methylene chloride, were added dropwise. The mixture was stirred at room temperature (RT) for 1 h, and 5% strength hydrochloric acid was then added. The organic phase was separated off, washed and dried, and the solvent was removed. Chromatographic purification (silica gel column, cyclohexane/ethyl acetate) gave 4.7 g of the title compound as colorless crystals.

reactant | ethyl 2-amino-3-oxo-3-o-tolylpropionate hydrochloride | 0.024 mol, 6.2 g | Cl.NC(C(=O)OCC)C(C1=C(C=CC=C1)C)=O
reactant | triethylamine | 0.096 mol, 9.7 g | C(C)N(CC)CC | C6H15N
reactant | 4-fluoro-2-trifluoromethylbenzoyl chloride | 0.024 mol, 5.4 g | FC1=CC(=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3ClF4O
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 2-(4-fluoro-2-trifluoromethylbenzoylamino)-3-oxo-3-o-tolylpropionate | 4.7 g | FC1=CC(=C(C(=O)NC(C(=O)OCC)C(C2=C(C=CC=C2)C)=O)C=C1)C(F)(F)F | C20H17F4NO4
